US07820823B2
(3R)-3-(2-Fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 5.76 g (3R)-3-(2-fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid allyl ester (18.6 mmol) in 60 ml THF were added 130 mg of PdCl2{P(Ph)2} (0.186 mmol), 12.12 ml acetic acid (37.2 mmol), and 49.87 ml tributyl tinnhydride (37.2 mmol). The reaction was stirred at rt for 1 hr. and monitored by TLC. A pale yellow solid precipitated. The suspension was diluted with 100 ml ether, the solid was filtered, washed with ether and hexane and dried. The solid was suspended in 10 ml THF, 4.87 g BOC anhydride (30 mmol) was added and the reaction stirred at rt. for 3 h and monitored by TLC. The reaction was diluted with ethyl acetate, the org layer washed with water and brine, dried over Mg sulfate, filtered and the filtrate evaporated. The residue was crystallized from an ether/hexane mixture.

reactant | (3R)-3-(2-fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid allyl ester | 18.6 mmol, 5.76 g | C(C=C)OC(=O)N1C[C@@H](CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H16FN3O4
reactant | acetic acid | 37.2 mmol, 12.12 ml | C(C)(=O)O | C2H4O2
reactant | BOC anhydride | 30 mmol, 4.87 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R)-3-(2-Fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C15H20FN3O4
